US07943622B2
Step 2. Synthesis of (5-phenylfuran-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 4-(5-phenylfuran-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (58.9 mg, 0.102 mmol). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 39.6 mg (89%) of the desired product as a white solid. LC-MS: RT=4.63 min, [M+H]+=364.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(5-phenylfuran-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.102 mmol, 58.9 mg | OC(=O)C(F)(F)F.C1(=CC=CC=C1)C1=CC=C(O1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
product | (5-phenylfuran-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 39.6 mg, 89% | Cl.Cl.C1(=CC=CC=C1)C1=CC=C(O1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C21H21N3O3.2ClH/c25-21(20-9-8-19(27-20)16-5-2-1-3-6-16)24-12-11-23-13-17(24)15-26-18-7-4-10-22-14-18;;/h1-10,14,17,23H,11-13,15H2;2*1H
